US06124313
A2. 8-Amino-3-chloroimidazo[1,2-a]pyridine
A suspension of 3-chloro-2-methyl-8-pivaloylaminoimidazo[1,2-a]pyridine (4.0 g, 15 mmol) in 60% strength sulfuric acid (25 ml) is stirred at 100° C. for 1 h. After cooling to RT, water (100 ml) is added and the mixture is adjusted to pH 10 using 10 N sodium hydroxide solution. It is then extracted with ethyl acetate (3×50 ml). The combined organic extracts are washed with water (50 ml), dried over magnesium sulfate and concentrated. The residue is taken up in boiling toluene, clarified with silica gel and crystallized. The title compound is isolated as a beige solid. Yield 1.9 g (70%), m.p. 126-127° C.

reactant | 3-chloro-2-methyl-8-pivaloylaminoimidazo[1,2-a]pyridine | 15 mmol, 4.0 g | ClC1=C(N=C2N1C=CC=C2NC(C(C)(C)C)=O)C | C13H16ClN3O
reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 10 N | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 8-Amino-3-chloroimidazo[1,2-a]pyridine | NC=1C=2N(C=CC1)C(=CN2)Cl | C7H6ClN3
